US05175162
A mixture of 3.0 g of 2-methyl-4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetic acid and 2.0 g of 4-chlorophenylhydrazine in 50 ml of ethanol is refluxed under heating for 9 hours. After cooling, the mixture is concentrated under reduced pressure, the residue is subjected to column chromatography on silica gel and eluted with chloroform. The crystals obtained from the fraction are recrystallized from a mixed solvent of chloroform and ethanol to give 2.0 g of 2-(4-chlorophenyl)-8-methyl-4a,5-dihydro-2H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazin-3(4H)-one as pale brown crystals, melting at 142°-144° C.

reactant | 2-methyl-4-oxo-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-acetic acid | 3.0 g | CC1=CC2=C(SCC(C2=O)CC(=O)O)S1 | C10H10O3S2
reactant | 4-chlorophenylhydrazine | 2.0 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-chlorophenyl)-8-methyl-4a,5-dihydro-2H-thieno[2',3':2,3]thiopyrano[4,5-c]pyridazin-3(4H)-one | 2.0 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CSC1=C2C=C(S1)C | C16H13ClN2OS2
